US04178449
3',4'-Dimethyl-3-dimethylaminoacrylophenone
A mixture of 50 g. of 3',4'-dimethylacetophenone and 50 ml. of dimethylformamide dimethylacetal is refluxed for 16 hours. On cooling the desired compound crystallizes from the reaction mixture. After hexane is added, the desired compound is recovered by filtration, m.p. 108°-110° C.

reactant | 3',4'-dimethylacetophenone | CC=1C=C(C=CC1C)C(C)=O | C10H12O
reactant | dimethylformamide dimethylacetal | COC(N(C)C)OC | C5H13NO2
product | 3',4'-Dimethyl-3-dimethylaminoacrylophenone | CC=1C=C(C=CC1C)C(C=CN(C)C)=O | C13H17NO
